US07732460B2
(c) 1,1-Dimethylethyl [2-[1-(ethyloxy)ethenyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate
A degassed solution of 1,1-dimethylethyl [2-chloro-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate (20 g, 72.2 mmol) in 1,4-dioxane (200 ml) was treated with bis(tri-tert-butylphosphine) palladium(0) (1.05 g), caesium fluoride (21.93 g) and tributyl[1-(ethyloxy)ethenyl]stannane (26.9 ml) then heated to 100° C. overnight. The cooled mixture was treated with 10% aqueous potassium fluoride solution. After 0.5 hour stirring, the mixture was filtered through Kieselguhr, washing with 1,4-dioxane. Ethyl acetate and water were added to the filtrate. The phases were separated and the aqueous phase extracted twice with ethyl acetate. The combined organic extracts were dried over magnesium sulphate and evaporated. The residue was rapidly chromatographed eluting with 25-50% dichloromethane in hexane affording the product as a light brown oil (22.2 g, 99%).

reactant | 1,1-dimethylethyl [2-chloro-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate | 72.2 mmol, 20 g | ClC1=NC(=C(C=C1NC(OC(C)(C)C)=O)F)OC | C11H14ClFN2O3
reactant | caesium fluoride | 21.93 g | [F-].[Cs+]
reactant | tributyl[1-(ethyloxy)ethenyl]stannane | 26.9 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine) palladium(0) | 1.05 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | 1,1-Dimethylethyl [2-[1-(ethyloxy)ethenyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate | C(C)OC(=C)C1=NC(=C(C=C1NC(OC(C)(C)C)=O)F)OC | C15H21FN2O4
